US09127164B2
To a 50 mL rbf equipped with a nitrogen bubbler were charged 1-nitro-9-aminoacridine (162 mg, 0.68 mmol) and ethyl acetate (3.4 mL). Methanol (1.7 mL) and Pd/Alumina 10% (22 mg) were added and the reaction mixture was stirred to a fine suspension. Ammonium formate (85 mg, 1.35 mmol) was added and the mixture was stirred for 20 min at room temperature. A further portion of ammonium formate (128 mg, 2.03 mmol) was then added. Stirring was maintained overnight. The reaction mixture was filtered to remove catalyst and concentrated to dryness. The residue was purified by flashmaster column eluting with a gradient elution (DCM→DCM:MeOH 98:2) to afford pure 1,9-diaminoacridine as a brown-yellow solid (57 mg, 40%). 1H NMR and LCMS analyses conformed to structure.

reactant | 1-nitro-9-aminoacridine | 0.68 mmol, 162 mg | [N+](=O)([O-])C1=CC=CC2=NC3=CC=CC=C3C(=C12)N | C13H9N3O2
reactant | ethyl acetate | 3.4 mL | C(C)(=O)OCC | C4H8O2
reactant | Ammonium formate | 1.35 mmol, 85 mg | C(=O)[O-].[NH4+]
reactant | ammonium formate | 2.03 mmol, 128 mg | C(=O)[O-].[NH4+]
solvent | Methanol | 1.7 mL | CO | CH4O
product | 1,9-diaminoacridine | 57 mg, 40% | NC1=CC=CC2=NC3=CC=CC=C3C(=C12)N | C13H11N3
